US08877975B2
2-Methyl-propane-2-sulfinic acid {1-[1-(3,4-dichloro-phenyl)-cyclohexyl]-ethyl}-amide:
56 g (149.6 mmol) of 2-Methyl-propane-2-sulfinic acid {1-[1-(3,4-dichloro-phenyl)-cyclohexyl]-ethylidene}-amide was dissolved in 1 L of THF. The solution was chilled to −20° C. and treated with 49 g (190 mmol) of Cp2ZrHCl. The mixture was allowed to warm to rt and left to stir overnight before cooling back to −20° C. and quenching with a saturated solution of NH4Cl. The mixture was warmed to rt extracted with EtOAc (3×). The combined organic layers were washed with H2O, brine and then dried over Na2SO4. All volatiles were then removed under reduced pressure. The resulting mixture was suspended in MTBE and filtered. All volatiles were again removed under reduced pressure to give 54 g (96%) of the title compound as a white solid in >90% chemical purity and was used without further purification. The diastereomeric ratio was determined to be >98% (reverse phase HPLC: Symmetry C18 column; solvent gradiant using H2O:ACN with 0.05% TFA): 1H NMR (300 MHz, CDCl3) δ 7.45-7.41 (m, 2 H), 7.20 (dd, 1 H, J=8.6, 2.3 Hz), 3.34-3.25 (m, 1 H), 3.01 (d, 1 H, J=6.9 Hz), 2.50-2.44 (m, 1 H), 2.23-2.17 (m, 1 H), 1.65-1.48 (m, 5 H), 1.34-1.17 (m, 3 H), 1.13 (s, 9 H), 0.98 (d, 3 H, J=6.6 Hz); 13C NMR (75 MHz, CDCl3) δ 141.9, 132.8, 131.1, 130.6, 130.4, 128.5, 60.6, 56.1, 46.5, 33.7, 33.0, 26.6, 22.8, 22.3, 22.1, 16.8.

reactant | 2-Methyl-propane-2-sulfinic acid {1-[1-(3,4-dichloro-phenyl)-cyclohexyl]-ethylidene}-amide | 149.6 mmol, 56 g | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(C)=NS(=O)C(C)(C)C | C18H25Cl2NOS
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | 2-Methyl-propane-2-sulfinic acid {1-[1-(3,4-dichloro-phenyl)-cyclohexyl]-ethyl}-amide | 54 g, 96% | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(C)NS(=O)C(C)(C)C | C18H27Cl2NOS
